US06921821B2
4-{1-[1-(4-acetylphenyl)-ethyl]-piperidin-4-ylamino}-6-chlorochromen-2-one (II-116)
To a solution of 1-[4-(1-bromoethyl)-phenyl]-ethanone (0.35 g, 1.54 mmol) and 6-chloro-4-(piperidin-4-ylamino)-chromen-2-one (0.42 g, 1.50 mmol) in dry THF (15 mL) was added Cs2CO3 (2.44 g, 7.50 mmol). The reaction mixture was allowed to stir at room temperature for 12 h, after which time THF was removed in vacuo and the white residue was partitioned between H2O (250 mL) and ethyl acetate (250 mL). After removal of the organic layer, the aqueous layer was washed with an addition portion of ethyl acetate (250 mL), and the combined organic layers were dried over MgSO4, filtered and concentrated in vacuo to provide a yellow oil. The crude product was purified by flash chromatography through a silica gel column with dichloromethane and methanol (95: 5 v/v). The resulting yellow residue was then treated with 4 M HCl in dioxane, solvent was removed in vacuo to provide a yellow solid. Crystallization from dichloromethane provided the HCl salt of the desired compound (0.027 g, 4%) as a white solid MS (ESI(+)Q1MS) m/z 425 (M+H)+; 1H NMR (300 MHz, DMSO) δ ppm 10.84-10.97 (m, 1H), 8.32-8.38 (m, 1H), 8.00-8.08 (m, 2H), 7.75-7.84 (m, 2H), 7.58-7.63 (m, 1H), 7.48-7.54 (m, 1H), 7.30-7.35 (m, 1H), 5.39 (s, 1H), 4.51-4.63 (m, 1H), 3.60-3.77 (m, 2H), 3.24-3.40 (m, 1H), 2.73-2.95 (m, 2H), 2.59 (s, 3H), 1.95-2.14 (m, 4H), 1.72 (d, 3H). The pure racemic mixture was separated into enantiomers by prep HPLC chiral chromatography using a CHIRALPAK AD column: 7.5/7.5/85 MeOH/EtOH/Hexanes at 0.8 ml/min. Enantiomers had retention times of 4.2 and 6.4 minutes.

reactant | 1-[4-(1-bromoethyl)-phenyl]-ethanone | 1.54 mmol, 0.35 g | BrC(C)C1=CC=C(C=C1)C(C)=O | C10H11BrO
reactant | 6-chloro-4-(piperidin-4-ylamino)-chromen-2-one | 1.50 mmol, 0.42 g | ClC=1C=C2C(=CC(OC2=CC1)=O)NC1CCNCC1 | C14H15ClN2O2
reactant | Cs2CO3 | 7.50 mmol, 2.44 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-{1-[1-(4-acetylphenyl)-ethyl]-piperidin-4-ylamino}-6-chlorochromen-2-one | 0.027 g, 4% | C(C)(=O)C1=CC=C(C=C1)C(C)N1CCC(CC1)NC1=CC(OC2=CC=C(C=C12)Cl)=O | C24H25ClN2O3
